US06858638B2
N-(3-Amino-1H-indazol-5-yl)-3-fluorobenzenesulfonamide can be obtained in the following way: a solution of 0.3 g of N-[5-(3-fluorobenzenesulfonylamino)-1H-indazol-3-yl]benzamide, of 24 ml of ethanol and of 1.08 ml of 37% hydrochloric acid is heated at a temperature in the region of 100° C. for 30 hours. The cooled reaction medium is concentrated under reduced pressure. 20 ml of water, and aqueous sodium hydroxide, to a pH in the region of 11, are added to the residue thus obtained, which is then extracted with three times 25 ml of ethyl acetate. The pooled organic phases are filtered, dried over magnesium sulfate, filtered again and concentrated by evaporation under reduced pressure. The residue thus obtained is purified by chromatography on a silica column with a dichloromethane/methanol (99/1 by volume) mixture as eluent. The solid thus obtained is recrystallized from 5 ml of isopropanol. 0.1 g of N-(3-amino-1H-indazol-5-yl)-3-fluorobenzenesulfonamide is thus obtained, after drying under reduced pressure at 60° C., in the form of a white solid melting at 216° C. (analysis C13H11FN4O2S % calculated C, 50.97; H, 3.62; F, 6.20; N, 18.29; O, 10.45; S, 10.47. % found C, 50.80; H, 3.72; N, 18.14; S, 10.21).

reactant | N-[5-(3-fluorobenzenesulfonylamino)-1H-indazol-3-yl]benzamide | 0.3 g | FC=1C=C(C=CC1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)NC(C1=CC=CC=C1)=O | C20H15FN4O3S
reactant | hydrochloric acid | 1.08 ml | Cl | ClH
solvent | ethanol | 24 ml | C(C)O | C2H6O
product | N-(3-amino-1H-indazol-5-yl)-3-fluorobenzenesulfonamide | 0.1 g | NC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=CC(=CC=C1)F | C13H11FN4O2S
